US05302257
A divided glass H-cell as described in Example-6.1 which is equipped with a platinum-on-titanium metal anode (5 cm2) and a nickel foil cathode is charged in the cathode compartment with 50 mL of 8% H3PO4 solution and in the anode compartment with K3Fe(CN)6 (1.71 g, 4.5 mmol), K2CO3 (10.35 g, 75.0 mmol) and t-BuOH (45 mL)/water (50 mL), the chiral ligand, PHAL-DHQ (175 mg 0.225 mmol), OsO4 (0.196 M in toluene, 0.077 mL, 0.015 mmol) and Z-1-chloro-1-phenylpropene (6.9 g, 66.6% purity, 30 mmol). The mixture is electrolyzed at 0.4 V (vs ref. Ag/AgCl) at 15° C. until about 4950 coulombs (85% conversion) of electricity is used. After stirring without electricity for 2 hours, the reaction is worked up as in Example 6.1 using ethyl acetate as the extraction solvent to give (S)-2-hydroxypropiophenone as a yollow liquid (6.8 g, 95.1% ee by HPLC analysis on a Chiralcell OD column). The crude product is purified on slica gel eluting with 5-15% ethyl acetate in hexane to give pure (S)-2-hydroxypropiophenone as a pale yellow solid (3.0 g).

reactant | H3PO4 | 50 mL | OP(=O)(O)O | H3O4P
reactant | K2CO3 | 75.0 mmol, 10.35 g | C(=O)([O-])[O-].[K+].[K+]
reactant | t-BuOH | 45 mL | CC(C)(C)O | C4H10O
reactant | Z-1-chloro-1-phenylpropene | 30 mmol, 6.9 g | Cl\C(=C/C)\C1=CC=CC=C1 | C9H9Cl
catalyst | nickel | [Ni] | Ni
catalyst | OsO4 | 0.015 mmol, 0.196 M, 0.077 mL | O=[Os](=O)(=O)=O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 50 mL | O | H2O
product | (S)-2-hydroxypropiophenone | O[C@H](C(=O)C1=CC=CC=C1)C | C9H10O2
